US06706904B1
A dicalciumhydroxy malate granular product was prepared by mixing two molar equivalents of particulate calcium hydroxide with one molar equivalent of particulate malic acid (totaling 45 kg for the entire composition) in a Ribbon Blender for 15 minutes at normal speeds. A water jacket was used to ensure that the product would not over react when small amounts of water were added to the batch. Next, about 1 L of water was slowly sprayed into the particulate mixture product. After about 10 minutes of reaction time (where the product became spongy and had risen, and then dropped back to a more granular state), an additional 1 L of water was added. This was repeated several times until no further reaction appeared to be occurring upon addition of water. The end result was a granular product. Once a fully reacted granular product was formed, no additional water was added. The resulting composition was then dried in a cool room and ground to a predetermined particle size.

reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
solvent | water | O | H2O
solvent | water | 1 L | O | H2O
solvent | water | about 1 L | O | H2O
product | dicalciumhydroxy malate | C(C(O)CC(=O)[O-])(=O)OO.[Ca+2].[Ca+2].OOC(C(O)CC(=O)[O-])=O.OOC(C(O)CC(=O)[O-])=O.OOC(C(O)CC(=O)[O-])=O | InChI=1S/4C4H6O6.2Ca/c4*5-2(1-3(6)7)4(8)10-9;;/h4*2,5,9H,1H2,(H,6,7);;/q;;;;2*+2/p-4
